Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion
 
Major Surgical or Invasive Procedure:
___ - Mitral valve repair with P2 resection and 32mm 
___ Band
 
History of Present Illness:
Mr. ___ is a ___ year old malnoriginally diagnosed with 
mitral valve
prolapse in his ___ who remained asymptomatic until relatively 
recently. Over the years, he developed mitral regurgitation as 
documented by echocardiogram, which is now classified as severe. 
His most recent echocardiogram revealed progression of his 
disease with early stages of left ventricular dilatation. A 
transesophageal echocardiogram revealed partial flail of the 
posterior leaflet with severe mitral regurgitation. Mr. ___ 
is quite active with past jogging and current biking. He noted 
progressively dyspnea with physical
activity. He denied exertional chest pain, palpitations, 
dizziness, syncope, paroxysmal nocturnal dyspnea, orthopnea, or 
lower extremity edema. Given the progression of his symptoms, 
severity of his mitral regurgitation and early signs of left 
ventricular dilatation, he was referred for surgical evaluation. 

 
Past Medical History:
Asthma
Bell's Palsy, ___
Diabetes Mellitus
Gastroesophageal Reflux Disease
Hyperlipidemia
Hypertension
Mitral Regurgitation
Mitral Valve Prolapse
Nasal Polyps
Seasonal Allergies
 
Social History:
___
Family History:
Father - was diagnosed with coronary artery disease in his 
early/mid ___, MI at ___ and had a stroke in his ___.

 
Physical Exam:
Vital Signs sheet entries for ___:
BP: 139/88 Heart Rate: 69. Resp. Rate: 12. O2 Saturation%: 97.
Height: 68"  Weight: 187lb

General: WDWN in NAD. 
Skin: Warm [X] Dry [X] intact [X]
HEENT: NCAT [X] PERRLA [X] EOMI [X] Sclera anicteric, Teeth in 
good repair. 
Neck: Supple [X] Full ROM [X] No JVD
Chest: Lungs clear bilaterally [X]
Heart: RRR, Nl S1-S2, III/VI systolic murmur heard throughout 
precordium but best at apex 
Abdomen: Soft [X] non-distended [X] non-tender [X] bowel sounds 
+ [X]
Extremities: Warm [X], well-perfused [X] No Edema
Varicosities: None [X]
Neuro: Grossly intact [X]
Pulses:
Femoral      Right: 2   Left: 2
DP           Right: 2   Left: 2
___           Right: 2   Left: 2
Radial       Right: 2   Left: 2

Carotid Bruit: Murmur radiates to carotids bilaterally

 
Pertinent Results:
Transesophageal Echocardiogram ___- report not available
 
Brief Hospital Course:
He was admitted on ___ and was taken to the operating 
room. He underwent mitral valve repair. Please see operative 
note for full details. He tolerated the procedure well and was 
transferred to the CVICU in stable condition for recovery and 
invasive monitoring. No inotrope or pressor requirements. He 
weaned from sedation, awoke neurologically intact and was 
extubated on POD 1. Beta blocker was initiated and he was 
diuresed toward his preoperative weight. He remained 
hemodynamically stable and was transferred to the telemetry 
floor for further recovery.  He was evaluated by the physical 
therapy service for assistance with strength and mobility. He 
had post-op afib lasting 7 hours and was started on amiodarone 
by the time of discharge he had no further afib therefore 
amiodarone was stopped and Coumadin was not indicated. He had 
post-operative hyperglycemia and was seen by ___ service he 
was started and continued on lantus. Glucophage was increased. 
Follow up was arranged - he will be seen by his PCP in one week 
and was given the ___ contact info and appropriate 
instructions. 
By the time of discharge on POD #4 he was ambulating freely, the 
wound was healing, and pain was controlled with oral analgesics. 
He was discharged to home in good condition with appropriate 
follow up instructions.
 
Medications on Admission:
ProAir HFA 90 2 puffs INH prn shortness of breath, wheezing 
Lipitor 20 mg tablet once a day in evening 
Budesonide 0.5 mg/2 mL suspension for neb, 1 ampule in each 
nostril once a day Pulmicort Flexhaler 180 mcg 2 puffs INH once 
a day
Omnaris 50 mcg nasal spray once a day 
Metformin 500 mg tablet twice a day 
Montelukast 10 mg tablet once a day 
Omeprazole 20 mg capsule once a day as needed for reflux
Ramipril 10 mg capsule once a day
Aspirin 81 mg tablet once a day
Coenzyme Q10 
Multivitamin tablet once a day 
 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0
2. Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
3. MetFORMIN (Glucophage) 500 mg PO BID 
4. Montelukast 10 mg PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Cetirizine 10 mg PO DAILY:PRN seasonal allergy irritation 
7. Docusate Sodium 100 mg PO BID 
8. Glargine 40 Units Breakfast
RX *insulin glargine [Lantus] 100 unit/mL AS DIR 40 Units before 
BKFT; Disp #*2 Vial Refills:*0
RX *insulin syringe-needle U-100 [BD Insulin Syringe Ultra-Fine] 
30 gauge X ___ insulin daily Disp #*1 Box Refills:*0
9. Metoprolol Tartrate 25 mg PO Q8H 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth every 8 hours 
Disp #*90 Tablet Refills:*0
10. Milk of Magnesia 30 mL PO DAILY 
11. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN Pain: 
moderate/severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*65 Tablet Refills:*0
12. Omnaris (ciclesonide) 50 mcg nasal DAILY 
13. Multivitamins 1 TAB PO DAILY 
14. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN wheezing 
15. Pulmicort (budesonide) 0.5 mg/2 mL inhalation DAILY 
16. Potassium Chloride 20 mEq PO DAILY Duration: 5 Days 
RX *potassium chloride [K-Tab] 20 mEq 1 tablet(s) by mouth daily 
Disp #*5 Tablet Refills:*0
17. Furosemide 20 mg PO DAILY Duration: 5 Days 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*5 Tablet 
Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Mitral Regurgitation s/p repair 
 
Asthma 
Bell's Palsy, ___ 
Diabetes Mellitus 
Gastroesophageal Reflux Disease 
Hyperlipidemia 
Hypertension 
Mitral Valve Prolapse 
Nasal Polyps 
Seasonal Allergies 
 
 
Discharge Condition:
Alert and oriented x3 nonfocal
 Ambulating, gait steady
 Sternal pain managed with oral analgesics
 Sternal Incision - healing well, no erythema or drainage
 Edema: trace lower extremity edema

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
 Please NO lotions, cream, powder, or ointments to incisions
 Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
 No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
 No lifting more than 10 pounds for 10 weeks
 Please call with any questions or concerns ___
 **Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

Call the ___ ___ if your morning 
blood sugar is less than 120.
 
Followup Instructions:
___